US07268257B1
N,N-diisopropyl-3(2-methoxy-5-methylphenyl)-3-phenylpropanamine and N,N-diisopropyl-3-(5-methoxy-2-methylphenyl)-3-phenylpropanamine (11.0 g, 32.4 mmol) was dissolved in acetic acid (15 ml). After addition of 47% aqueous hydrobromic acid (25 ml), the mixture was heated to reflux for three hours (bath temperature, 120° C.). The reaction mixture was cooled to the room temperature. After the solvent was distilled off, water (120 ml) and toluene (110 ml) were added to the residue, to which sodium hydroxide (2.2 g) and sodium carbonate (26 g) were added to adjust pH to 11. After the aqueous layer was phase-separated to remove, the organic layer was washed with an aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent in the dried solution was distilled off under reduced pressure to obtain 9.04 g of racemic tolterodine (yield 85.7%).

reactant | N,N-diisopropyl-3(2-methoxy-5-methylphenyl)-3-phenylpropanamine | C(C)(C)N(CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC)C(C)C | C23H33NO
reactant | N,N-diisopropyl-3-(5-methoxy-2-methylphenyl)-3-phenylpropanamine | 32.4 mmol, 11.0 g | C(C)(C)N(CCC(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)C)C(C)C | C23H33NO
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | tolterodine | 9.04 g, yield 85.7% | CC=1C=CC(=C(C1)[C@H](CCN(C(C)C)C(C)C)C=2C=CC=CC2)O | C22H31NO
